US04419352
(a) 1-(4-Acetylamino-2-hydroxy-5-nitro-3-propylphenyl)ethanone
1-(4-Acetylamino-2-hydroxy-3-propylphenyl)ethanone (58.75 g) was suspended in glacial acetic acid (750 ml), and this suspension was treated with a mixture of glacial acetic acid (250 ml), acetic anhydride (48 ml) and conc. nitric acid (10.2 ml) with vigorous stirring. After 18 hours the insoluble material was collected and dried in vacuo to afford the title compound 29.1 g. The structure was confirmed by NMR and mass spectrometry.

reactant | 1-(4-Acetylamino-2-hydroxy-3-propylphenyl)ethanone | 58.75 g | C(C)(=O)NC1=C(C(=C(C=C1)C(C)=O)O)CCC | C13H17NO3
reactant | acetic anhydride | 48 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 10.2 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 750 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 1-(4-Acetylamino-2-hydroxy-5-nitro-3-propylphenyl)ethanone | 29.1 g | C(C)(=O)NC1=C(C(=C(C=C1[N+](=O)[O-])C(C)=O)O)CCC | C13H16N2O5
